US07625914B2
(g) Preparation of 2(S)-Ethoxy-3-[4-(2-methylaminothiazol-5-yl)phenyl]propanoic acid
0.6 g (1.6 mmol) of methyl 3-{4-[2-(acetylmethylamino)thiazol-5-yl]phenyl}-2(S)-ethoxypropanoate in 25 ml of methanol and 2.4 ml (2.4 mmol) of aqueous 1M sodium hydroxide solution are heated at 60° C. for 18 hours. The reaction medium is cooled, diluted with water, acidified to pH 4-5 and then extracted with ethyl acetate and n-butanol. The organic phase is washed with saturated sodium chloride solution, dried over magnesium sulfate, filtered and evaporated. The residue obtained is used in step h without purification.

reactant | methyl 3-{4-[2-(acetylmethylamino)thiazol-5-yl]phenyl}-2(S)-ethoxypropanoate | 1.6 mmol, 0.6 g | C(C)(=O)CNC=1SC(=CN1)C1=CC=C(C=C1)C[C@@H](C(=O)OC)OCC | C18H22N2O4S
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
solvent | water | O | H2O
product | 2(S)-Ethoxy-3-[4-(2-methylaminothiazol-5-yl)phenyl]propanoic acid | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)C1=CN=C(S1)NC | C15H18N2O3S
